US05650428
The procedure described in Example 180 was repeated, except that (S)-2-(4-bromobenzenesulfonylamino)-4-methylthiobutanoic acid (7.86 g) and ethyl 4-aminophenylacetate (3.64 g) were condensed in dichloromethane (80 ml) in the presence of N,N'-dicyclohexylcarbodiimide (5.28 g). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from ethanol to obtain (S)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-methylthiobutanamide (1.67 g).

reactant | (S)-2-(4-bromobenzenesulfonylamino)-4-methylthiobutanoic acid | 7.86 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)O)CCC | C11H14BrNO3S2
reactant | ethyl 4-aminophenylacetate | 3.64 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | N,N'-dicyclohexylcarbodiimide | 5.28 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (S)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-methylthiobutanamide | 1.67 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)NC1=CC=C(C=C1)CC(=O)OCC)CCC | C21H25BrN2O4S2
